US09353107B2
Step-iv: N-(2-(2-(dimethylamino)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step ii of intermediate 2, N-(5-bromo-2-(2-(dimethylamino)ethoxy)phenyl)methanesulfonamide (1.9 g, 5.6 mmol) was coupled with 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.13 g, 8.45 mmol) in potassium acetate (1.65 g, 16.8 mmol), PdCl2 (dppf) (204.68 mg, 0.28 mmol), DMSO (40 mL) to give 250 mg (11.57% yield) of the title compound. LCMS: m/z=385.1 (M+1)

reactant | N-(5-bromo-2-(2-(dimethylamino)ethoxy)phenyl)methanesulfonamide | 5.6 mmol, 1.9 g | BrC=1C=CC(=C(C1)NS(=O)(=O)C)OCCN(C)C | C11H17BrN2O3S
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 8.45 mmol, 2.13 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 16.8 mmol, 1.65 g | C(C)(=O)[O-].[K+]
catalyst | PdCl2 | 0.28 mmol, 204.68 mg | Cl[Pd]Cl
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | N-(2-(2-(dimethylamino)ethoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl) methanesulfonamide | 250 mg, 11.57% yield | CN(CCOC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)C)C | C17H29BN2O5S
